US08168651B2
4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carbonitrile (1.0 eq, 350 mg, 1.55 mmol) was mixed with N-bromosuccinimide (1.1 eq, 303 mg, 1.70 mmol) in acetic acid (4 ml). The mixture was stirred at 100° C. for 4 hours. The mixture was cooled down to 80° C., more NBS (303 mg) was added and the mixture stirred overnight. Water was added and the material filtered and dried. Trituration in methanol and filtration afforded 2-bromo-4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carbonitrile as a grey solid (396 mg, 84% yield). LCMS (ES)>80% pure, m/z 305 [M]+, 307 [M+2]+.

reactant | 4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carbonitrile | 1.55 mmol, 350 mg, 1.0 eq | O=C1NC=2C=C(C=CC2C2=C1C=CS2)C#N | C12H6N2OS
reactant | N-bromosuccinimide | 1.70 mmol, 303 mg, 1.1 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NBS | 303 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Water | O | H2O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carbonitrile | 396 mg, 84% yield | BrC1=CC=2C(NC=3C=C(C=CC3C2S1)C#N)=O | C12H5BrN2OS
